US08071595B2
To a stirred solution of 1-(4-chlorophenyl)-4-methyl-4-(trimethylsilyloxy)pent-2-yn-1-one (3.7 g, 12.50 mmol) in DCM (20 mL) was added PTSA (2.87 g, 15.01 mmol) at RT. The reaction mixture was stirred for 1 h and diluted with water (10 mL). The combined organic layers were washed with a saturated NaHCO3 solution and water, dried over Na2SO4, filtered, and then concentrated in vacuo to afford 1-(4-chlorophenyl)-4-hydroxy-4-methylpent-2-yn-1-one (2.40 g) as a pale red oil.

reactant | 1-(4-chlorophenyl)-4-methyl-4-(trimethylsilyloxy)pent-2-yn-1-one | 12.50 mmol, 3.7 g | ClC1=CC=C(C=C1)C(C#CC(C)(O[Si](C)(C)C)C)=O | C15H19ClO2Si
reactant | PTSA | 15.01 mmol, 2.87 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 1-(4-chlorophenyl)-4-hydroxy-4-methylpent-2-yn-1-one | 2.40 g | ClC1=CC=C(C=C1)C(C#CC(C)(C)O)=O | C12H11ClO2
